US08026257B2
1-Methyl-7-(((4-phenylpiperidin-4-yl)methoxy)methyl)-5-(trifluoromethyl)-1H-indazole.
tert-Butyl 4-(((1-methyl-5-(trifluoromethyl)-1H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (187 mg, 0.371 mmol) was dissolved in trifluoroacetic acid (25% in dichloromethane, 2 mL) and stirred at room temperature for 15 min. The reaction was concentrated and loaded onto a strong cation exchange cartridge in methanol. The cartridge was flushed with several volumes of methanol which were discarded. The product was eluted with 2 M ammonia in methanol and concentrated to 151 mg (quant.) as a colorless film. 1H-NMR (CDCl3, 500 MHz) δ 7.97 (s, 1H), 7.92 (s, 1H), 7.31 (s, 1H), 7.21 (m, 4H), 7.14 (m, 1H), 4.64 (s, 2H), 3.90 (s, 3H), 3.46 (s, 2H), 2.82 (m, 2H), 2.69 (m, 2H), 2.09 (m, 2H), 1.79 (m, 2H), 1.60 (bs, 1H); 13C-NMR (CDCl3, 126 MHz) δ 144.2, 139.5, 133.8, 128.3, 127.1, 126.2, 124.8, 124.7 (q, J=272 Hz), 124.5, 122.5 (q, J=33 Hz), 121.3, 119.6 (q, J=4.8 Hz), 79.4, 70.6, 42.7, 41.7, 38.2, 33.8. Mass spec.: 404.14 (MH)+. Accurate mass spec.: m/z 404.1947 [MH]+, Δ=0.7 ppm.

reactant | tert-Butyl 4-(((1-methyl-5-(trifluoromethyl)-1H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.371 mmol, 187 mg | CN1N=CC2=CC(=CC(=C12)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)C(F)(F)F | C27H32F3N3O3
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-Methyl-7-(((4-phenylpiperidin-4-yl)methoxy)methyl)-5-(trifluoromethyl)-1H-indazole | CN1N=CC2=CC(=CC(=C12)COCC1(CCNCC1)C1=CC=CC=C1)C(F)(F)F | C22H24F3N3O
